US05324747
A mixture of 2.2 g of N-[3,4-bis[(1-oxodecyl)oxy]phenyl]-N-[2-oxo-2-(phenylmethoxy)ethyl]glycine phenylmethyl ester and 0.5 g of 10% palladium on carbon in 20 ml of ethyl acetate and 30 ml of THF was stirred in a hydrogen atmosphere at room temperature until uptake ceased after 10 hours. The catalyst was removed by filtration and the filtrate was concentrated at reduced pressure to a semisolid which was crystallized from ethyl acetate-hexane to give 1.3 g (78% yield, mp 131°-133°) of N-(carboxymethyl)-N-[3,4-bis[(1-oxodecyl)oxy]phenyl]glycine.

reactant | N-[3,4-bis[(1-oxodecyl)oxy]phenyl]-N-[2-oxo-2-(phenylmethoxy)ethyl]glycine phenylmethyl ester | 2.2 g | C1(=CC=CC=C1)COC(CN(CC(OCC1=CC=CC=C1)=O)C1=CC(=C(C=C1)OC(CCCCCCCCC)=O)OC(CCCCCCCCC)=O)=O | C44H59NO8
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | N-(carboxymethyl)-N-[3,4-bis[(1-oxodecyl)oxy]phenyl]glycine | 1.3 g, 78% yield | C(=O)(O)CN(CC(=O)O)C1=CC(=C(C=C1)OC(CCCCCCCCC)=O)OC(CCCCCCCCC)=O | C30H47NO8
